US07105553B2
4-Methyl-2-(methylamino)-1,3-thiazole-5-sulphonamide
At room temperature, 144 g (0.576 mol) of 2-chloro-4-methyl-1,3-thiazole-5-sulphonamide are initially charged in 600 ml of acetonitrile, and 147 g (1.9 mol) of a 40% strength aqueous methylamine solution are metered in at room temperature. The reaction mixture is stirred at 50° C. for 6 h and then concentrated using a rotary evaporator. The residue is admixed with water, filtered off with suction and dried.

reactant | 2-chloro-4-methyl-1,3-thiazole-5-sulphonamide | 0.576 mol, 144 g | ClC=1SC(=C(N1)C)S(=O)(=O)N | C4H5ClN2O2S2
reactant | methylamine | CN | CH5N
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 4-Methyl-2-(methylamino)-1,3-thiazole-5-sulphonamide | CC=1N=C(SC1S(=O)(=O)N)NC | C5H9N3O2S2
